US07074800B1
Using an analogous procedure to that described for Example 121, 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (160 mg, 0.47 mol), (prepared as described for the starting material in Example 1), was reacted with 6-hydroxy-2-methylindole (84 mg, 0.57 mol), (Eur. J. Med. Chem. 1975, 10, 187), to give 6-methoxy-4-(2-methylindol-6-yloxy)-7-(3-morpholinopropoxy)quinazoline (157 mg, 73%).

reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.47 mol, 160 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | 6-hydroxy-2-methylindole | 0.57 mol, 84 mg | OC1=CC=C2C=C(NC2=C1)C | C9H9NO
product | 6-methoxy-4-(2-methylindol-6-yloxy)-7-(3-morpholinopropoxy)quinazoline | 157 mg, 73% | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCOCC1)OC1=CC=C2C=C(NC2=C1)C | C25H28N4O4
